US07750003B2
Phenyl N-[4-[4-[(4-fluorophenyl)sulfonylmethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate
Phenyl chloroformate (0.474 mL, 3.77 mmol) was added dropwise to 4-[4-[(4-fluorophenyl)sulfonylmethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline (1.67 g, 3.77 mmol) and sodium bicarbonate (476 mg, 5.66 mmol) in dioxane (20 mL) under nitrogen. The resulting suspension was stirred at RT for 2 hours. The reaction mixture was evaporated to dryness and redissolved in DCM (50 mL) and washed with water (50 mL). The organic layer was dried (MgSO4), filtered and evaporated to give crude product which was triturated with diethyl ether to give the desired product (1.90 g).

reactant | Phenyl chloroformate | 3.77 mmol, 0.474 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-[4-[(4-fluorophenyl)sulfonylmethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline | 3.77 mmol, 1.67 g | FC1=CC=C(C=C1)S(=O)(=O)CC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(N)C=C1 | C22H23FN4O3S
reactant | sodium bicarbonate | 5.66 mmol, 476 mg | C([O-])(O)=O.[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | Phenyl N-[4-[4-[(4-fluorophenyl)sulfonylmethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate | 1.90 g | FC1=CC=C(C=C1)S(=O)(=O)CC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C29H27FN4O5S
